US08119692B2
(S)-2-((R)-2-(4-Fluoro-3-methylphenyl)-2-hydroxyethyl)pent-4-enoic acid (Intermediate E4)
To a solution of 150 mg (3S,5R)-3-allyl-5-(4-fluoro-3-methylphenyl)dihydrofuran-2(3H)-one in 5 mL dioxane was added 5 mL aq. 5% KOH at 25° C. The mixture was stirred for 30 min at 25° C. then hydrolyzed with 10 mL of 1M HCl. The resulting mixture was extracted twice with ethyl acetate (10 mL). The combined organic layers were then extracted with 5 mL 5% K2CO3 three times and the combined aqueous layers acidified with 1M HCl to pH3. The resulting mixture was extracted with ethyl acetate (3×30 mL), the combined organic layers washed with brine (2×20 mL) before being concentrated under reduced pressure. The crude product residue was used for the next step without further purification.

reactant | (3S,5R)-3-allyl-5-(4-fluoro-3-methylphenyl)dihydrofuran-2(3H)-one | 150 mg | C(C=C)[C@@H]1C(O[C@H](C1)C1=CC(=C(C=C1)F)C)=O | C14H15FO2
reactant | KOH | [OH-].[K+]
reactant | HCl | 1M, 10 mL | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (S)-2-((R)-2-(4-Fluoro-3-methylphenyl)-2-hydroxyethyl)pent-4-enoic acid | FC1=C(C=C(C=C1)[C@@H](C[C@@H](C(=O)O)CC=C)O)C | C14H17FO3
